US03994858
a. 3-(β-Chloroethyl)-5-ethyl-5-methyl-hydantoin
284.3 g of 5-ethyl-5-methyl-hydantoin (2.0 mols), 138.2 g of anhydrous potassium carbonate (1.0 mol), 791.7 g of 1,2-dichloroethane (8.0 mols) and 230 ml of dimethylformamide are subjected to an azeotropic circulatory distillation for 25 hours at 90° C to 107° C internal temperature (external temperature: 160° C), in the manner described under Example 1 (a). After completion of the reaction, the mixture is filtered whilst still hot and the filtrate is concentrated on a rotary evaporator at 90° C under a waterpump vacuum. The reaction mixture is then dried to constant weight at 90° C and 10-1 mm Hg. 392.5 g of a brown, clear, product (95.9% of theory) are obtained, and are purified by vacuum distillation (boiling point0.2 : 147° C). Yield of pure product: 327.3 g (80% of theory). A sample recrystallised from diethyl ether melts at 58.0° C to 59.0° C.

reactant | 5-ethyl-5-methyl-hydantoin | 2.0 mols, 284.3 g | C(C)C1(C(NC(N1)=O)=O)C | C6H10N2O2
reactant | potassium carbonate | 1.0 mol, 138.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dichloroethane | 8.0 mols, 791.7 g | ClCCCl | C2H4Cl2
solvent | dimethylformamide | 230 ml | CN(C=O)C | C3H7NO
product | 3-(β-Chloroethyl)-5-ethyl-5-methyl-hydantoin | ClCCN1C(NC(C1=O)(C)CC)=O | C8H13ClN2O2
